US05084466
100 mg of methyl p-(p-amidinobenzamidoacetyl)hydrocinnamate hydrochloride were heated with 4 ml of 2N hydrochloric acid at 100° C. for 60 minutes. The reaction mixture was cooled, 4 ml of water were added, and the mixture was stirred at 5° C. for 2 hours. The crystals which precipitated was filtered off with suction and dried over KOH in vacuo. 70 mg of pure p-(p-amidinobenzamidoacetyl)hydrocinnamic acid hydrochloride, melting point 273°-274° C. (decomposition), were obtained.

reactant | methyl p-(p-amidinobenzamidoacetyl)hydrocinnamate hydrochloride | 100 mg | Cl.C(N)(=N)C1=CC=C(C(=O)NCC(=O)C2=CC=C(CCC(=O)OC)C=C2)C=C1
reactant | hydrochloric acid | 2N, 4 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
product | p-(p-amidinobenzamidoacetyl)hydrocinnamic acid hydrochloride | 70 mg | Cl.C(N)(=N)C1=CC=C(C(=O)NCC(=O)C2=CC=C(CCC(=O)O)C=C2)C=C1 | InChI=1S/C19H19N3O4.ClH/c20-18(21)14-6-8-15(9-7-14)19(26)22-11-16(23)13-4-1-12(2-5-13)3-10-17(24)25;/h1-2,4-9H,3,10-11H2,(H3,20,21)(H,22,26)(H,24,25);1H
